* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 20.6
R1 n1 a 5
R2 a nc 5
V2 nc nd DC 31.1
R3 nd ne 3
V3 b ne DC 10.2
V4 nf b DC 14.2
R4 nf 0 5
.op
.print dc V(a) V(b)
.end